US07456218B2
methyl 3-{4-[(4′-hydroxy-2′-methylbiphenyl-3-yl)methoxy]phenyl}propanoate
A solution of methyl 3-(4-{[2′-methyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methoxy}phenyl)propanoate (3.78 g, 8.21 mmol) and p-toluenesulfonic acid monohydrate (0.156 g, 0.821 mmol) in methanol (60 mL) was stirred at room temperature for 2 hrs. The reaction solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20%-60% ethyl acetate/hexane) to give the title compound (3.04 g, yield 98%) as a colorless viscous oil.

reactant | methyl 3-(4-{[2′-methyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-yl]methoxy}phenyl)propanoate | 8.21 mmol, 3.78 g | CC1=C(C=CC(=C1)OC1OCCCC1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC | C29H32O5
reactant | p-toluenesulfonic acid monohydrate | 0.821 mmol, 0.156 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 60 mL | CO | CH4O
product | methyl 3-{4-[(4′-hydroxy-2′-methylbiphenyl-3-yl)methoxy]phenyl}propanoate | 3.04 g, yield 98% | OC1=CC(=C(C=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC)C | C24H24O4
